US06114532
f. Ethyl 3-[1-(3-amino-4-methylamino-benzyl)-1H-benzimidazol-2-yl]-propionate
Prepared analogously to Example 1c from ethyl 3-[1-(4-methylamino-3-nitro-benzyl)-1H-benzimidazol-2-yl]-propionate and palladium on activated charcoal in methanol/methylene chloride.

reactant | ethyl 3-[1-(4-methylamino-3-nitro-benzyl)-1H-benzimidazol-2-yl]-propionate | CNC1=C(C=C(CN2C(=NC3=C2C=CC=C3)CCC(=O)OCC)C=C1)[N+](=O)[O-] | C20H22N4O4
catalyst | palladium on activated charcoal | [Pd] | Pd
solvent | methanol methylene chloride | CO.C(Cl)Cl
product | Ethyl 3-[1-(3-amino-4-methylamino-benzyl)-1H-benzimidazol-2-yl]-propionate | NC=1C=C(CN2C(=NC3=C2C=CC=C3)CCC(=O)OCC)C=CC1NC | C20H24N4O2
